US05401739
The 3-chloro-4-methyl-1,2,4-benzothiadiazine-1,1-dioxide obtained in Reference Example 4 was reacted with 3-[3-(piperidinomethyl)phenoxy]propylamine in the same manner as in Example 1 to obtain 3-[N-]3-[3-(piperidinomethyl)phenoxy]-propyl]amino)-4-methyl-1,2,4-benzothiadiazine-1,1-dioxide. In an argon stream with ice cooling, 0.18 g of 60% sodium hydride was added to a solution of 1.78 g of this dioxide in 10 ml of N,N-dimethylformamide. To the mixture was added dropwise 0.6 g of acetoxyacetyl chloride, and the resulting mixture was stirred at room temperature for 12 hours. Ice-cold water was added to the reaction mixture, and the mixture was made alkaline with sodium hydroxide and subjected to extraction with ethyl acetate, followed by distillation to remove the solvent. The residue was purified by silica gel column chromatography using chloroform:methanol (10:1) to isolate 0.33 g of 3-[N-[3-[3-(piperidinomethyl)phenoxy]-propyl]acetoxyacetylamino]-4-methyl-1,2,4-benzothiadiazine-1,1-dioxide (yield 15% ). The oily product obtained was converted to an oxalic acid salt in the same manner as in Example 1 to obtain 0.28 g of a compound 21 listed in Table 1 (yield 71% ). M.p.: 86°~89° C.

reactant | 3-chloro-4-methyl-1,2,4-benzothiadiazine-1,1-dioxide | ClC1=NS(C2=C(N1C)C=CC=C2)(=O)=O | C8H7ClN2O2S
reactant | 3-[3-(piperidinomethyl)phenoxy]propylamine | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
product | 4-methyl-1,2,4-benzothiadiazine-1,1-dioxide | CN1C=NS(C2=C1C=CC=C2)(=O)=O | C8H8N2O2S
